US05155100
5-Indanol (52.9 mg, 0.394 mmol) is added in one portion to a solution of (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid (200 mg, 0.394 mmol) in methylene chloride (25 ml). 4-(N,N-Dimethylamino)pyridine (48.1 mg, 0.394 mmol) is added followed by N-dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride (151 mg, 0.788 mmol). The solution is stirred at room temperature for 3 hours. Ethyl acetate (60 mL) and water (15 mL) are added. The organic layer is subsequently washed with a saturated solution of sodium bicarbonate (2×15 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel, eluting with ethyl acetate-hexane (1:1). Evaporation of the pure fraction yields 5-indanyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate, as a thick colorless oil that can be crystallized from ether, m.p. 89°-91°.

reactant | 5-Indanol | 0.394 mmol, 52.9 mg | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | 0.394 mmol, 200 mg | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C31H31N2O6P
reactant | N-dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride | 0.788 mmol, 151 mg | Cl.CN(C)CCCN=C=NCC
reactant | Ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-Dimethylamino)pyridine | 0.394 mmol, 48.1 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | 15 mL | O | H2O
product | 5-indanyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)OC=1C=C2CCCC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C40H39N2O6P
